### PR TITLE
feat(Paper): conjecture about cardinality of Lindelöf spaces

### LINKED ISSUE #1809: Conjecture about cardinality of Lindelöf spaces
### What is the conjecture

The conjecture asks for a Lindelöf space where all singletons are G_δ sets
and which has cardinality > 𝔠.

This is Problem 1 in https://www.math.md/files/basm/y2013-n2-3/y2013-n2-3-(pp37-46).pdf.pdf

Would it be useful to formalise more of the above problem list? Right now the repository has very little topology.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-54

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1809.

Two notes:
 -  The class I defined is not really necessary here, however it's useful on its own, i.e. see [this](https://topology.pi-base.org/properties/P000191)
 - The existence of such spaces is consistent with ZFC, so I think the statement I chose is the morally "right" one, i.e. it is impossible to prove ```¬ ∃ (X : Type*) (_ : TopologicalSpace X) (_ : HasPointsGδ X) (_ : LindelofSpace X), 𝔠 < #X``` without additional axioms.

### CODE REVIEW

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+-/
+
+open Cardinal
+
+namespace CardinalityLindelof
+
+/--
+A space where all singletons are Gδ points.
+-/
+class HasPointsGδ (X : Type*) [TopologicalSpace X] : Prop where
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]:
```suggestion
class HasSingletonGδ (X : Type*) [TopologicalSpace X] : Prop where
```
maybe instead?

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+instance HasPointsGδ.ofT1SpaceFirstCountable (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] [T1Space X] : HasPointsGδ X where
+  gδPoints := IsGδ.singleton
+
+/--
+Does every Lindelöf space with Gδ points have cardinality less or equal to the continuum?
+-/
+@[category research open, AMS 54]
+theorem HasPointsGδ.lindelof_card :
+    ∃ (X : Type*) (_ : TopologicalSpace X), HasPointsGδ X ∧ LindelofSpace X ∧ 𝔠 < #X := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]: <= or < ?

Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: <

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+/-!
+# Conjecture about cardinality of Lindelöf spaces
+
+The conjecture asks for a Lindelöf space where all singletons are G_δ sets
+and which has cardinality > 𝔠.
+
+This is Problem 1 in https://www.math.md/files/basm/y2013-n2-3/y2013-n2-3-(pp37-46).pdf.pdf
+
+*Reference:*
+* [Selected Old Open Problems in General Topology](https://www.math.md/files/basm/y2013-n2-3/y2013-n2-3-(pp37-46).pdf.pdf)
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean:27]:
```suggestion
* [Selected Old Open Problems in General Topology](https://www.math.md/files/basm/y2013-n2-3/y2013-n2-3-(pp37-46).pdf)
```
?

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+A space where all singletons are Gδ points.
+-/
+class HasSingletonsGδ (X : Type*) [TopologicalSpace X] : Prop where
+  gδPoints : ∀ ⦃x : X⦄, IsGδ {x}
+
+/-- Singletons are Gδ in First-Countable T₁ Spaces -/
+@[category test, AMS 54]
+instance HasPointsGδ.ofT1SpaceFirstCountable (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] [T1Space X] : HasSingletonsGδ X where
+  gδPoints := IsGδ.singleton
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]: nit:
```suggestion
  gδPoints := .singleton
```

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+
+/--
+A space where all singletons are Gδ points.
+-/
+class HasSingletonsGδ (X : Type*) [TopologicalSpace X] : Prop where
+  gδPoints : ∀ ⦃x : X⦄, IsGδ {x}
+
+/-- Singletons are Gδ in First-Countable T₁ Spaces -/
+@[category test, AMS 54]
+instance HasPointsGδ.ofT1SpaceFirstCountable (X : Type*) [TopologicalSpace X]
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]:
```suggestion
instance HasSingletonsGδ.of_t1Space_firstCountableTopology (X : Type*) [TopologicalSpace X]
```
Same below

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+
+open Cardinal
+
+namespace CardinalityLindelof
+
+/--
+A space where all singletons are Gδ points.
+-/
+class HasSingletonsGδ (X : Type*) [TopologicalSpace X] : Prop where
+  gδPoints : ∀ ⦃x : X⦄, IsGδ {x}
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]: maybe even
```suggestion
class HasGδSingletons (X : Type*) [TopologicalSpace X] : Prop where
  isGδ_singleton (x : X) : IsGδ {x}
```

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 7]
```diff
@@ -0,0 +1,58 @@
...
+instance HasPointsGδ.ofT1SpaceFirstCountable (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] [T1Space X] : HasSingletonsGδ X where
+  gδPoints := IsGδ.singleton
+
+/--
+Does every Lindelöf space with Gδ points have cardinality less or equal to the continuum?
+-/
+@[category research open, AMS 54]
+theorem HasPointsGδ.lindelof_card :
+    ∃ (X : Type*) (_ : TopologicalSpace X), HasSingletonsGδ X ∧ LindelofSpace X ∧ 𝔠 < #X := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]:
```suggestion
    ∃ (X : Type) (_ : TopologicalSpace X), HasSingletonsGδ X ∧ LindelofSpace X ∧ 𝔠 < #X := by
```

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 8]
```diff
@@ -0,0 +1,58 @@
...
+  sorry
+
+--TODO under additional set theory axioms, there exists such a space with 𝔠 < #X.
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]:
```suggestion
-- TODO: under additional set theory axioms, there exists such a space with 𝔠 < #X.
```

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 2 above)
Comment (YaelDillies) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: That's not what I read in the reference

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 3 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean:27]: Interestingly google gave me .pdf.pdf, but this works as well yeah

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 2 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: image
we take the converse here

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 7 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: wouldnt this restrict the universe? (Im not too well versed in this)

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 2 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: This is more natural since its consistent with ZFC

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 6 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: sure, thanks

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 7 above)
Comment (YaelDillies) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: Yes indeed, but you can't really quantify over universes anyway

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 2 above)
Comment (YaelDillies) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: Ah right, can you maybe restate the docstring so that it matches? And say that the negation has been proved consistent with ZFC?

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 7 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: Hm this is really unfortunate. I suppose there is no good way around this?

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 9]
```diff
@@ -0,0 +1,58 @@
...
+  isGδ_singleton : ∀ ⦃x : X⦄, IsGδ {x}
+
+/-- Singletons are Gδ in First-Countable T₁ Spaces -/
+@[category test, AMS 54]
+instance HasGδSingletons.of_t1Space_firstCountableTopology (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] [T1Space X] : HasGδSingletons X where
+  isGδ_singleton := IsGδ.singleton
+
+/--
+Is the a Lindelöf space with Gδ points with  cardinality greater than the continuum?
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]: Can you fix the a typo and extra  space?

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 10]
```diff
@@ -0,0 +1,58 @@
...
+-/
+@[category research open, AMS 54]
+theorem HasGδSingletons.lindelof_card :
+    ∃ (X : Type) (_ : TopologicalSpace X), HasGδSingletons X ∧ LindelofSpace X ∧ 𝔠 < #X := by
+  sorry
+
+-- TODO: under additional axioms, there such a space exists. I.e. this is consistent with ZFC.
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]:
```suggestion
-- TODO: under additional axioms (consistent with ZFC), such a space exists. I.e. this is consistent with ZFC.
```

File: FormalConjectures/Paper/CardinalityLindelof.lean (hunk 7 above)
Comment (YaelDillies) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: I think the spelling with `Type` is plenty

File: FormalConjectures/Paper/CardinalityLindelof.lean [hunk 11]
```diff
@@ -0,0 +1,58 @@
...
+A space where all singletons are Gδ sets.
+-/
+class HasGδSingletons (X : Type*) [TopologicalSpace X] : Prop where
+  isGδ_singleton : ∀ ⦃x : X⦄, IsGδ {x}
+
+/-- Singletons are Gδ in First-Countable T₁ Spaces- -/
+@[category test, AMS 54]
+instance HasGδSingletons.of_t1Space_firstCountableTopology (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] [T1Space X] : HasGδSingletons X where
+  isGδ_singleton := IsGδ.singleton
```
Comment (YaelDillies) [inline FormalConjectures/Paper/CardinalityLindelof.lean]: Move these to ForMathlib?

Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: Yeah, there are a few theorems one could add about this acutually
https://topology.pi-base.org/properties/P000191
I might add some later

Comment (felixpernegger) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: But I kind of prefer to put everything into the ForMathlib once all of #1849 is formalised (shouldnt take too long), to keep things organised better.

Comment (YaelDillies) [reply FormalConjectures/Paper/CardinalityLindelof.lean]: I feel like it's easier to move things as they come, also from a reviewing perspective

**Comment by felixpernegger** [comment]
forgot about this pr oops
